US07723333B2
tert-Butyl 4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]piperidine-1-carboxylate
A mixture of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (2.000 g, 6.672 mmol), tert-butyl-4-aminopiperidine-1-carboxylate (1.336 g, 6.672 mmol) and TEA (0.933 ml, 6.672 mmol) in MeCN (20 ml) was heated in a microwave reactor at 120° C. for 40 mins and 130° C. for 30 mins. tert-Butyl-4-aminopiperidine-1-carboxylate (0.267 mg, 1.334 mmol) and TEA (0.187 ml, 1.334 mmol) was added and the resulting mixture was heated in a microwave reactor for at 120° C. for 20 mins. The reaction mixture was evaporated to dryness and the residue was purified by silica gel column chromatography (Horizons Biotage) eluting with 10% petroleum ether 40-60° C. in DCM then 0-20% EtOAc in DCM to give the title compound (2.228 g, 72%) as a solid. 1H NMR (500 MHz, CDCl3): δ 7.54-7.50 (m, 2H), 7.50-7.44 (m, 3H), 5.17 (d, 1H), 3.88 (bs, 2H), 3.08-3.00 (m, 1H), 2.32 (dt, 2H), 1.74 (s, 9H), 1.68-1.60 (m, 2H), 1.42 (s, 9H), 1.30-1.17 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 159.8, 154.7, 134.1, 131.9, 130.2, 128.9, 125.3, 107.3, 80.1, 61.9, 50.4, 42.4, 32.4, 28.6, 27.9; Mass Spectrum M+H+ 464.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 6.672 mmol, 2.000 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | tert-butyl-4-aminopiperidine-1-carboxylate | 6.672 mmol, 1.336 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | tert-Butyl-4-aminopiperidine-1-carboxylate | 1.334 mmol, 0.267 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | MeCN | 20 ml | CC#N | C2H3N
product | tert-Butyl 4-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]piperidine-1-carboxylate | 2.228 g, 72% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)(=O)=O | C23H33N3O5S
